US07902187B2
Trans-4-(2-amino-6-chloro-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl methyl carbonate.
To a suspension of trans-4-(2-amino-6-chloro-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl-1H-imidazole-1-carboxylate (10.6 g, 28.1 mmol) in anhydrous methanol (400 mL) was added potassium carbonate (1.1 g, 10% wt) with stirring at room temperature. After 15 h, the reaction was found to be complete by LC-MS. The solvent was removed in vacuo, and water (1 L) was added with stirring at room temperature. Filtration under vacuum gave the desired product as a pink solid (yield quantitative). MS (EI) m/z 342.1 (MH)+.

reactant | trans-4-(2-amino-6-chloro-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl-1H-imidazole-1-carboxylate | 28.1 mmol, 10.6 g | NC1=NC(=C2NC(N(C2=N1)[C@@H]1CC[C@H](CC1)C=1N(C=CN1)C(=O)[O-])=O)Cl
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 400 mL | CO | CH4O
product | Trans-4-(2-amino-6-chloro-8-oxo-7,8-dihydropurin-9-yl)cyclohexyl methyl carbonate | C(O[C@@H]1CC[C@H](CC1)N1C2=NC(=NC(=C2NC1=O)Cl)N)(OC)=O | C13H16ClN5O4
